US06492416B1
437 mg of 1-{3-methyl-4-(methylthio)phenyl}-2-(3-fluorophenyl)-ethanone in 50 ml dry THF was stirred with 67 mg of 60% oil dispersion of sodium hydride for an hour at 0° C., which was followed by dropwise addition of 0.8 ml α-bromoisobutyryl cyanide diluted with 25 ml THF. The reaction solution was slowly warmed to room temperature and was stirred overnight. Then the solvent was removed in vacuo and the resulting residue was extracted with 50 ml water and dichloromethane (50 ml×3). The organic layer was concentrated in vacuo and was purified by column chromatography (hexane/ethylacetate=6:1) to yield 312 mg of 2,2-dimethyl-4-(3-fluorophenyl)-5-{3-methyl-4-(methylthio)phenyl}-3(2H)-furanone. NMR: δ1.55 (s, 6H), 2.27 (s, 3H), 2.48 (s, 3H), 7.36 (m, 4H), 7.32 (m, 1H), 7.45 (m, 2H). IR 1694, 1601, 1385, 1260, 1192.

reactant | 1-{3-methyl-4-(methylthio)phenyl}-2-(3-fluorophenyl)-ethanone | 437 mg | CC=1C=C(C=CC1SC)C(CC1=CC(=CC=C1)F)=O | C16H15FOS
reactant | sodium hydride | [H-].[Na+]
reactant | α-bromoisobutyryl cyanide | 0.8 ml | BrC(C(=O)C#N)(C)C | C5H6BrNO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2,2-dimethyl-4-(3-fluorophenyl)-5-{3-methyl-4-(methylthio)phenyl}-3(2H)-furanone | 312 mg | CC1(OC(=C(C1=O)C1=CC(=CC=C1)F)C1=CC(=C(C=C1)SC)C)C | C20H19FO2S
